US08912188B2
To a solution of methyl 2-(5-fluoro-1-benzofuran-2-yl)-3-[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]quinoxaline-6-carboxylate (135 mg, 0.31 mmol) in methanol (35.0 mL) and water (1.0 mL) was added sodium hydroxide (55 mg, 1.38 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30.0 mL), adjusted pH to 4 with HCl (3N) to give the precipitate, which was collected by filtration to afford 2-(5-fluoro-1-benzofuran-2-yl)-3-[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]quinoxaline-6-carboxylic acid (100 mg, 77%).

reactant | methyl 2-(5-fluoro-1-benzofuran-2-yl)-3-[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]quinoxaline-6-carboxylate | 0.31 mmol, 135 mg | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N2[C@H](CCC2)COC)C(=O)OC)C1 | C24H22FN3O4
reactant | sodium hydroxide | 1.38 mmol, 55 mg | [OH-].[Na+]
solvent | methanol | 35.0 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 2-(5-fluoro-1-benzofuran-2-yl)-3-[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]quinoxaline-6-carboxylic acid | 100 mg, 77% | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N2[C@H](CCC2)COC)C(=O)O)C1 | C23H20FN3O4
